US07595327B2
Following the procedure of Spurr et al, J. Am. Chem. Soc., 1983, 105, 4735, a solution of 1-methyl-1-cyclohexene (1 g, 10.4 mmol) in dichloromethane (30 mL) was cooled to −20° C. and chlorosulfonylisocyanate (1.08 mL, 12.5 mmol) was added drop wise. The reaction was warmed to −10° C. over 3 h, then warmed to room temperature and stirred for 1 h. The reaction mixture was then concentrated, and taken up in ether (15 mL) and dimethylethyleneglycol (5 mL) to homogenize. To the reaction mixture was added 25% Na2SO3 (25 mL), followed by 10% sodium hydroxide solution to keep the pH between 7-8. The reaction was stirred overnight, taken up in ethyl acetate, washed with brine, dried over MgSO4, filtered and concentrated to afford racemic (1S,6R)-6-methyl-7-azabicyclo[4.2.0]octan-8-one (0.95 g, 66%). MS: 140.1 (M+H)+

reactant | 1-methyl-1-cyclohexene | 10.4 mmol, 1 g | CC1=CCCCC1 | C7H12
reactant | chlorosulfonylisocyanate | 12.5 mmol, 1.08 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | racemic (1S,6R)-6-methyl-7-azabicyclo[4.2.0]octan-8-one | 0.95 g, 66% | CC12CCCCC2C(N1)=O | C8H13NO
